US05608084
d) 5-[4-Acetoxy-2-(3-oxopentyl)-3,5,6-trimethylphenoxy]-2,2-dimethyl pentanoic acid, isopropyl ester
A solution containing 20.0 g (0.072 moles) of 6-acetoxy-3,4-dihydro-2-ethyl-2-hydroxy-5,7,8-trimethyl-2H-1-benzopyran in 500 ml of benzene is slowly dripped, under nitrogen atmosphere, into a suspension containing 2.07 g (0.086 moles) of 97% sodium hydride in 150 ml of dimethylsulfoxide. After 40 minutes the solution is dripped into a solution containing 21.6 g (0.086 moles) of 2,2-dimethyl-5-bromopentanoic acid isopropyl ester in 100 ml of benzene brought to 60° C. and the mixture is reacted for 3 hours at 60° C. Then the suspension is diluted with ethyl ether and water, acidified with a 10% aqueous solution of hydrochloric acid and the product is recovered by evaporation of the organic solvent and purified by chromatography on column of silica gel with eluent petroleum ether-ethyl ether in 60:40 ratio. After evaporation of the solvent, 16.6 g are obtained with a yield of 83% of an oil having the following chemical-physical characteristics:

reactant | 6-acetoxy-3,4-dihydro-2-ethyl-2-hydroxy-5,7,8-trimethyl-2H-1-benzopyran | 0.072 moles, 20.0 g | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(O)CC)C1C)C)C | C16H22O4
reactant | sodium hydride | 0.086 moles, 2.07 g | [H-].[Na+]
reactant | 2,2-dimethyl-5-bromopentanoic acid isopropyl ester | 0.086 moles, 21.6 g | C(C)(C)OC(C(CCCBr)(C)C)=O | C10H19BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 5-[4-Acetoxy-2-(3-oxopentyl)-3,5,6-trimethylphenoxy]-2,2-dimethyl pentanoic acid, isopropyl ester | yield of 83% | C(C)(=O)OC1=C(C(=C(OCCCC(C(=O)OC(C)C)(C)C)C(=C1C)C)CCC(CC)=O)C | C26H40O6
